US04582526
A mixture of 1.99 g of 2,6-dichloroquinoxaline, 2.83 g of methyl 2-[[2-(4-hydroxyphenoxy)propionyl]oxy]ethylcarbamate, 1.4 g of potassium carbonate and 20 ml of N,N-dimethylformamide is stirred at room temperature overnight. For the working-up, the mixture is poured on to ice-water and extracted with ethyl acetate. The extracts are washed with water and sodium chloride solution, dried over sodium sulphate and evaporated. By chromatography on silica gel with hexane/ethyl acetate (2:1) there is obtained pure methyl 2-[[2-[p-[(6-chloro-2-quinoxalinyl)oxy]phenoxy]propionyl]oxy]ethylcarbamate; m.p. 103°-104.5° C.

reactant | 2,6-dichloroquinoxaline | 1.99 g | ClC1=NC2=CC=C(C=C2N=C1)Cl | C8H4Cl2N2
reactant | methyl 2-[[2-(4-hydroxyphenoxy)propionyl]oxy]ethylcarbamate | 2.83 g | OC1=CC=C(OC(C(=O)OCCNC(OC)=O)C)C=C1 | C13H17NO6
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 2-[[2-[p-[(6-chloro-2-quinoxalinyl)oxy]phenoxy]propionyl]oxy]ethylcarbamate | ClC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)OCCNC(OC)=O)C)C=C1 | C21H20ClN3O6
